US08377923B2
WSC•monohydrochloride (130 mg), HOBt (110 mg) and formic hydrazide (60 mg) were sequentially added to a solution of 5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoic acid (300 mg) in DMF (6 ml), followed by stirring at room temperature for 4 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was sequentially washed with saturated aqueous sodium bicarbonate solution, water and then saturated brine in this order, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure to obtain 5-chloro-N′-formyl-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzohydrazide (230 mg).

reactant | HOBt | 110 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | formic hydrazide | 60 mg | C(=O)NN | CH4N2O
reactant | 5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoic acid | 300 mg | ClC=1C=CC(=C(C(=O)O)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C20H17ClF3N3O3
reactant | Water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 5-chloro-N′-formyl-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzohydrazide | 230 mg | ClC=1C=CC(=C(C(=O)NNC=O)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C21H19ClF3N5O3
